US04070366
2,4-Dimethyl-3-sec-butyl-5-carbethoxypyrrole
The crude product, obtained as in Example 74 but using 2,4-dimethyl-5-carbethoxypyrrole with 2-butanone and stirring at 30°-35° C, was sublimed then thrice recrystallized from ethanol as colorless plates (130 mg), m.p. 102°-104° C.

reactant | 2,4-dimethyl-5-carbethoxypyrrole | CC=1NC(=C(C1)C)C(=O)OCC | C9H13NO2
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 2,4-Dimethyl-3-sec-butyl-5-carbethoxypyrrole | CC=1NC(=C(C1C(C)CC)C)C(=O)OCC | C13H21NO2
